US09169242B2
Step 2: 3-(3-Bromo-4-methylphenyl)-1-oxa-2-azaspiro[4,4]non-2-ene:
To a solution of 3-bromo-4-methylbenzaldehyde oxime (0.85 g, 4 mmol, 1.0 eq) in THF (50 mL) was added pyridine (0.2 mL, 2.4 mmol, 0.6 eq) followed by N-chlorosuccinimide (530 mg, 4 mmol, 1.0 eq) and the resulting mixture was refluxed for 1 h. The reaction was cooled to room temperature before the addition of a solution of methylenecyclopentane (0.42 mL, 4 mmol, 1.0 eq) in THF (5 mL) followed by triethyl amine (0.94 mL, 7 mmol, 1.7 eq). The resulting solution was refluxed for 1 h. The solvent was evaporated under vacuum and usual work up afforded 690 mg of the title product as a white solid. 1HNMR (400 MHz, CDCl3) δ 8.09 (s, 1H), 7.52 (d, J=8.0 Hz, 1H), 7.24 (d, J=8.0 Hz, 1H), 3.22 (s, 2H), 2.41 (s, 3H), 2.14-2.11 (m, 2H), 1.88-1.84 (m, 2H), 1.77-1.72 (m, 4H); ESI-MS (m/z) 294, 296 [(MH)+, Br79,81].

reactant | 3-bromo-4-methylbenzaldehyde oxime | 4 mmol, 0.85 g, 1.0 eq | BrC=1C=C(C=NO)C=CC1C | C8H8BrNO
reactant | pyridine | 2.4 mmol, 0.2 mL, 0.6 eq | N1=CC=CC=C1 | C5H5N
reactant | N-chlorosuccinimide | 4 mmol, 530 mg, 1.0 eq | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | methylenecyclopentane | 4 mmol, 0.42 mL, 1.0 eq | C=C1CCCC1 | C6H10
reactant | triethyl amine | 7 mmol, 0.94 mL, 1.7 eq | C(C)N(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(3-Bromo-4-methylphenyl)-1-oxa-2-azaspiro[4,4]non-2-ene | 690 mg | BrC=1C=C(C=CC1C)C1=NOC2(C1)CCCC2 | C14H16BrNO
